US06518265B1
tert-Butyl 4-[2-(4-chloro-2-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl)-ethyl]-1-piperidinecarboxylate
To a solution of 0.60 g of tert-butyl 4-[2-(3-amino-2-chloro-4-quinolylamino)-ethyl]-1-piperidinecarboxylate and 0.44 g of triphosgene in 10 ml of 1,2-dichloroethane, 0.41 ml of triethylamine was added dropwise, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was neutralized with saturated aqueous sodium hydrogencarbonate solution, and extracted with 1,2-dichloroethane. The extract was washed with saturated brine, and dried, and the solvent was evaporated. The residue was washed with diisopropyl ether to give 0.57 g of colorless crystals. Recrystallization from 1,2-dichloroethane gave colorless crystals having the melting point of from 222 to 223° C.

reactant | tert-butyl 4-[2-(3-amino-2-chloro-4-quinolylamino)-ethyl]-1-piperidinecarboxylate | 0.60 g | NC=1C(=NC2=CC=CC=C2C1NCCC1CCN(CC1)C(=O)OC(C)(C)C)Cl | C21H29ClN4O2
reactant | triphosgene | 0.44 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | triethylamine | 0.41 ml | C(C)N(CC)CC | C6H15N
product | tert-Butyl 4-[2-(4-chloro-2-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl)-ethyl]-1-piperidinecarboxylate | 0.57 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCC2CCN(CC2)C(=O)OC(C)(C)C)O | C22H27ClN4O3
